US06057326
(S)-4-[α-(hydroxymethyl)benzylamino]-6,7-dimethoxyquinazoline free base
A suspension of (S)-4-[α-(hydroxymethyl)benzylamino]-6,7dimethoxyquinazoline hydrochloride salt (361.8 mg, 1 mmol) and potassium carbonate (276 mg, 2 mmol) in methanol (6 ml) was stirred at ambient temperature for 0.5 h. The mixture was filtered and the filtrate evaporated under vacuum. The residue was purified by column chromatography on silica gel (eluant dichloromethane/ethanol 2-6%) to give pure title compound in 90% yield.

reactant | (S)-4-[α-(hydroxymethyl)benzylamino]-6,7dimethoxyquinazoline hydrochloride salt | 1 mmol, 361.8 mg | Cl.OC[C@H](C1=CC=CC=C1)NC1=NC=NC2=CC(=C(C=C12)OC)OC
reactant | potassium carbonate | 2 mmol, 276 mg | C([O-])([O-])=O.[K+].[K+]
solvent | methanol | 6 ml | CO | CH4O
product | (S)-4-[α-(hydroxymethyl)benzylamino]-6,7-dimethoxyquinazoline | 90% yield | OC[C@H](C1=CC=CC=C1)NC1=NC=NC2=CC(=C(C=C12)OC)OC | C18H19N3O3
